US07425638B2
To a solution of 1-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-2-chloro-ethanone (9.65 mg) and diisopropylethylamine (5 uL) was added dimethylamine (50 uL, 2.0M solution in tetrahydrofuran). The reaction mixture was capped and heated at 60° C. overnight. It was diluted with methylene chloride and washed with water. The organic layer was concentrated to dryness to give 1-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-2-dimethylamino-ethanone (9.17 mg, 92% yield). LR-MS: 677.3 [(M+H)+].

reactant | 1-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-2-chloro-ethanone | 9.65 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)C(CCl)=O)C1=C(C=C(C=C1)C(F)(F)F)OCC | C31H28Cl3F3N4O3
reactant | diisopropylethylamine | 5 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 2.0M, 50 uL | CNC | C2H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-{4-[4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-2-dimethylamino-ethanone | 9.17 mg, 92% yield | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)C(CN(C)C)=O)C1=C(C=C(C=C1)C(F)(F)F)OCC | C33H34Cl2F3N5O3
